US09403827B2
Step 1.8: (E)-1-(4-chlorophenyl)-3-(2-methoxyphenyl)prop-2-en-1-one
KOH (1.415 g, 25.2 mmol) was added to a solution of 1-(4-chlorophenyl)ethanone (3.9 g, 25.2 mmol) and 2-methoxybenzaldehyde (3.43 g, 25.2 mmol) in methanol (100 ml) at RT and the solution was stirred for 18 hours. The solution was concentrated under reduced pressure until a precipitate was formed. AcOH (1.444 ml, 25.2 mmol) was added and the mixture was cooled down to 0° C.-5° C. The mixture was stirred for 1 hour and the light yellow precipitate was separated by filtration and washed with cold methanol to afford 6.72 g (24.39 mmol, 97% yield) of the title compound. LCMS: (M+H)=273; tR=1.28 min (LC-MS 3). 1H-NMR (d6-DMSO, 600 MHz) δ ppm 8.12 (d, 2H) 8.04 (d, 1H) 7.98 (d, 1H) 7.86 (d, 1H) 7.62 (d, 2H) 7.45 (t, 1H) 7.10 (d, 1H) 7.02 (t, 1H) 3.88 (s, 3H).

reactant | KOH | 25.2 mmol, 1.415 g | [OH-].[K+]
reactant | 1-(4-chlorophenyl)ethanone | 25.2 mmol, 3.9 g | ClC1=CC=C(C=C1)C(C)=O | C8H7ClO
reactant | 2-methoxybenzaldehyde | 25.2 mmol, 3.43 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | AcOH | 25.2 mmol, 1.444 ml | CC(=O)O | C2H4O2
solvent | methanol | 100 ml | CO | CH4O
product | (E)-1-(4-chlorophenyl)-3-(2-methoxyphenyl)prop-2-en-1-one | 24.39 mmol, 6.72 g, 97% yield | ClC1=CC=C(C=C1)C(\C=C\C1=C(C=CC=C1)OC)=O | C16H13ClO2
